US07723329B2
Step 5) 1-(3-Chloro-benzyl)-7-(3-chloro-propoxy)-3-(naphthalene-1-sulfonyl)-1-H-indazole
A mixture of 7-(3-chloro-propoxy)-3-(naphthalene-1-sulfonyl)-1-H-indazole (0.7 g, 1.75 mmoles), 3-chloro-benzylbromide (0.28 mL, 2.17 mmoles), and cesium carbonate (0.7 g, 2.17 mmoles) in DMF (5 mL) was stirred together in a round bottom flask at room temperature for 10 minutes. Reaction mixture was diluted with H2O, extracted with EtOAc, washed with water (2×), brine (1×), dried over Na2SO4, and concentrated under vacuum. The crude product was purified by HPLC using as eluent 30% EtOAc/hexane to afford the title compound as an off-white solid (0.87 g, 1.66 mmoles).

reactant | 7-(3-chloro-propoxy)-3-(naphthalene-1-sulfonyl)-1-H-indazole | 1.75 mmoles, 0.7 g | ClCCCOC=1C=CC=C2C(=NNC12)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C20H17ClN2O3S
reactant | 3-chloro-benzylbromide | 2.17 mmoles, 0.28 mL | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | cesium carbonate | 2.17 mmoles, 0.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-(3-Chloro-benzyl)-7-(3-chloro-propoxy)-3-(naphthalene-1-sulfonyl)-1-H-indazole | 1.66 mmoles, 0.87 g | ClC=1C=C(CN2N=C(C3=CC=CC(=C23)OCCCCl)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C27H22Cl2N2O3S
